US07723330B2
Step D: Preparation of N-(4-((1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)(2-morpholinoethyl)amino)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid (0.0310 g, 0.132 mmol) (prepared according to the procedure of Example 19, Step C) was taken up in DMF (1 mL). EDCI (0.0422 g, 0.220 mmol), HOBt (0.0298 g, 0.220 mmol), and DIEA (0.0384 ml, 0.220 mmol) were then added. After stirring under N2 for 15 minutes, N1-(1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)-2-fluoro-N1-(2-morpholinoethyl)benzene-1,4-diamine (0.021 g, 0.0441 mmol) was added in DMF (1 mL). After stirring for 5.5 hours, DCM was removed. The product was taken up into EtOAc and washed with diluted NaHCO3 and brine. The product was dried over Na2SO4, filtered and concentrated. Purification via Flash Si 5 g eluting with 1-5% MeOH/DCM with NH4OH to obtain 15.7 mg (51%) of product as a yellow oil. 1H NMR (400 MHz, CDCl3) δ 11.88 (s, 1H), 8.41 (d, 1H), 8.24 (m, 2H), 7.93 (dd, 1H), 7.63 (m, 2H), 7.43 (m, 1H), 7.35 (m, 1H), 7.27 (m, 4H), 6.80 (m, 2H), 6.61 (br s, 1H), 6.31 (d, 1H), 5.48 (s, 2H), 3.94 (t, 2H), 3.75 (s, 3H), 3.65 (t, 3H), 2.88 (s, 1H), 2.75 (t, 2H), 2.47 (t, 4H); 19F NMR (376 MHz, CDCl3) −111.41 (s, 1F), −117.59 (s, 1F); LRMS (apci pos): 693.3 (M+H)+.

reactant | 2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid | 0.132 mmol, 0.0310 g | FC1=CC=C(C=C1)N1N=CC=C(C1=O)C(=O)O | C11H7FN2O3
reactant | EDCI | 0.220 mmol, 0.0422 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.220 mmol, 0.0298 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.220 mmol, 0.0384 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | N1-(1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)-2-fluoro-N1-(2-morpholinoethyl)benzene-1,4-diamine | 0.0441 mmol, 0.021 g | COC1=CC=C(CN2N=CC=3C2=NC=CC3N(C3=C(C=C(C=C3)N)F)CCN3CCOCC3)C=C1 | C26H29FN6O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(4-((1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)(2-morpholinoethyl)amino)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 15.7 mg, 51% | COC1=CC=C(CN2N=CC=3C2=NC=CC3N(C3=C(C=C(C=C3)NC(=O)C=3C(N(N=CC3)C3=CC=C(C=C3)F)=O)F)CCN3CCOCC3)C=C1 | C37H34F2N8O4
